US05620979
3-Bromo-4,5-difluoro-1,2-diaminobenzene was prepared using an adaptation of the method of Bellamy et al. (Bellamy, F. D. et al., Tetrahedron Lett. 25: 839 (1984)). A mixture of 2-bromo-3,4-difluoro-6-nitroaniline (700 mg, 2.78 mmol) and SnCl2.2H2O (3.14 g, 13.9 mmol) dissolved in 7 mL ethyl acetate and 3 mL absolute ethanol under N2 was heated at 75 ° C. for 2 h. All the starting material had reacted as evidenced by TLC (silica gel, 2:1 hexanes:ethyl acetate). The reaction was allowed to cool to room temperature and poured into 20 mL crushed ice. Sufficient sat'd NaHCO3 solution was added (foaming!) to bring the pH to 5. The thick yellow white emulsion was then extracted with 3×25 mL ethyl acetate and the combined organic extracts washed with sat'd NaCl solution. The organic phase was dried (MgSO4), vacuum filtered and the solvent rotary evaporated to yield a dark brown oil which crystallized on standing to yield 410 mg (66%). 1H NMR (CDCl3) δ 3.59 (br s, 4H, 2(NH2)); 6.52 (m, 1H, H-6).

reactant | 2-bromo-3,4-difluoro-6-nitroaniline | 2.78 mmol, 700 mg | BrC1=C(N)C(=CC(=C1F)F)[N+](=O)[O-] | C6H3BrF2N2O2
reactant | SnCl2.2H2O | 13.9 mmol, 3.14 g | O.O.Cl[Sn]Cl
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-4,5-difluoro-1,2-diaminobenzene | BrC=1C(=C(C=C(C1F)F)N)N | C6H5BrF2N2
